*TB LELO_5TOTA — Slew Rate / Large-Signal Transient
*----------------------------------------------------------------
* Include
*----------------------------------------------------------------
#ifdef Lay
.include ../../../work/lpe/LELO_5TOTA_lpe.spi
#else
.include ../../../work/xsch/LELO_5TOTA.spice
#endif

*-----------------------------------------------------------------
* OPTIONS
*-----------------------------------------------------------------
.option TNOM=27 GMIN=1e-15 reltol=1e-3
.temp 27

*-----------------------------------------------------------------
* PARAMETERS
*-----------------------------------------------------------------
.param AVDD      = 1.8
.param vcm       = 0.9
.param ibias_val = 6.26u
* Step amplitude (full swing to trigger slewing on both sides)
.param vstep     = 0.4

*-----------------------------------------------------------------
* SOURCES
*-----------------------------------------------------------------
VSS    VSS    0      dc 0
VDD    VDD    0      dc {AVDD}

* VINP: step input to demonstrate switch commutation of M1/M2
* PULSE: starts at vcm-vstep (M1~off/M2~on), steps to vcm+vstep (M1~on/M2~off)
VVINP  VINP   0   dc {vcm} PULSE({vcm-vstep} {vcm+vstep} 200n 1n 1n 2u 4u)

* VINN: held at VCM (reference, single-ended drive to trigger full slew)
VVINM  VINN   0   dc {vcm}

* Bias current
IIBIAS VSS    IBIAS  dc {ibias_val}

*-----------------------------------------------------------------
* LOAD — 1pF at VOUT (same as AC testbench)
*-----------------------------------------------------------------
CL     VOUT   VSS    1p

*-----------------------------------------------------------------
* DUT
*-----------------------------------------------------------------
.include ../xdut.spi

*-----------------------------------------------------------------
* NODESET — guide solver to correct op point
*-----------------------------------------------------------------
.nodeset v(vout)      = 0.82
.nodeset v(xdut.net1) = 0.34
.nodeset v(xdut.net2) = 0.82
.nodeset v(ibias)     = 0.55

*-----------------------------------------------------------------
* SAVE
*-----------------------------------------------------------------
.save v(VINP) v(VINN) v(VOUT) v(IBIAS)
.save v(xdut.net1) v(xdut.net2)
* Drain currents — prove M1/M2 act as current-steering switches during slewing
.save @m.xdut.xm1.msky130_fd_pr__nfet_01v8[id]
.save @m.xdut.xm2.msky130_fd_pr__nfet_01v8[id]
.save @m.xdut.xm3.msky130_fd_pr__pfet_01v8[id]
.save @m.xdut.xm4.msky130_fd_pr__pfet_01v8[id]
.save @m.xdut.xm5.msky130_fd_pr__nfet_01v8[id]

*-----------------------------------------------------------------
* NGSPICE control
*-----------------------------------------------------------------
.control
set num_threads=8
unset askquit
set filetype=ascii

* Run op first to settle bias
op
echo "--- DC operating point ---"
print v(xdut.net1) v(xdut.net2) v(vout)

* Transient: 3 pulse periods = 12µs, 1ns timestep
tran 1n 12u

* ----------------------------------------------------------------
* SWITCH COMMUTATION CHECK
* ----------------------------------------------------------------
* During SR+ (rising slew, t~200ns..2us): M1 carries ALL Itail, M2 = 0
* During SR- (falling slew, t~2.2us..4us): M1 = 0, M2 carries ALL Itail
* Tail current M5 stays constant = Itail throughout

* Average currents during rising slew window
meas tran id_m1_sr_plus  AVG @m.xdut.xm1.msky130_fd_pr__nfet_01v8[id] FROM=500n  TO=1.5u
meas tran id_m2_sr_plus  AVG @m.xdut.xm2.msky130_fd_pr__nfet_01v8[id] FROM=500n  TO=1.5u
meas tran id_m5_sr_plus  AVG @m.xdut.xm5.msky130_fd_pr__nfet_01v8[id] FROM=500n  TO=1.5u

* Average currents during falling slew window
* Falling edge at t=2.2us (Td+Pw), slew ~128ns → window 2.21us..2.32us
meas tran id_m1_sr_minus AVG @m.xdut.xm1.msky130_fd_pr__nfet_01v8[id] FROM=2.21u TO=2.32u
meas tran id_m2_sr_minus AVG @m.xdut.xm2.msky130_fd_pr__nfet_01v8[id] FROM=2.21u TO=2.32u
meas tran id_m5_sr_minus AVG @m.xdut.xm5.msky130_fd_pr__nfet_01v8[id] FROM=2.21u TO=2.32u

* SR measurements (10%..90% of swing, swing=0.8V → 10%=0.58V, 90%=1.22V)
meas tran t10_rise  WHEN v(vout) = 0.58  RISE=1
meas tran t90_rise  WHEN v(vout) = 1.22  RISE=1
meas tran t90_fall  WHEN v(vout) = 1.22  FALL=1
meas tran t10_fall  WHEN v(vout) = 0.58  FALL=2

echo ""
echo "====================================================="
echo "  5T OTA — SWITCH COMMUTATION + SLEW ANALYSIS"
echo "====================================================="
echo ""
echo "--- SWITCH BEHAVIOR (interview key insight) ---"
echo "During SR+: M1 = Itail (ON), M2 = 0 (OFF)"
echo "  Id_M1 (should = Itail~6.26uA):"
print id_m1_sr_plus
echo "  Id_M2 (should = 0):"
print id_m2_sr_plus
echo "  Id_M5 tail (constant = Itail):"
print id_m5_sr_plus
echo ""
echo "During SR-: M1 = 0 (OFF), M2 = Itail (ON)"
echo "  Id_M1 (should = 0):"
print id_m1_sr_minus
echo "  Id_M2 (should = Itail~6.26uA):"
print id_m2_sr_minus
echo "  Id_M5 tail (constant = Itail):"
print id_m5_sr_minus
echo ""
echo "--- SLEW RATE RESULTS ---"
let sr_plus  = (1.22 - 0.58) / (t90_rise - t10_rise)
let sr_minus = (1.22 - 0.58) / (t10_fall - t90_fall)
let sr_plus_vus  = sr_plus  / 1e6
let sr_minus_vus = sr_minus / 1e6
echo "  SR+ (V/us):"
print sr_plus_vus
echo "  SR- (V/us):"
print sr_minus_vus
echo "  Theory: SR = Itail/CL = 6.26uA/1pF = 6.26 V/us"
echo ""
echo "Key: SR = Itail/CL, not f(gm,W,L) — because M1/M2 are switches, not amplifiers"

write {cicname}.raw
quit
.endc

.end
